US06531502B1
A mixture of 4-(2-ethoxycarbonylethyl)-3-methyl-5-(5-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid ethyl ester (346 mg) and potassium hydroxide (560 mg) in ethanol (5 mL) was heated to 95° C. and then cooled, upon which red crystals formed. The crystals were dissolved in water and acidified with 2 N hydrochloric acid to pH 2. The precipitate was filtered, washed with water, and dried in a vacuum oven overnight to give 299 mg (100%) of 4-(2-carboxyethyl)-3-methyl-5-(5-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid as a brown solid.

reactant | 4-(2-ethoxycarbonylethyl)-3-methyl-5-(5-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 346 mg | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OCC)C=C1C(NC2=CC=C(C=C12)Cl)=O | C22H23ClN2O5
reactant | potassium hydroxide | 560 mg | [OH-].[K+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(2-carboxyethyl)-3-methyl-5-(5-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid | 299 mg, 100% | C(=O)(O)CCC=1C(=C(NC1C=C1C(NC2=CC=C(C=C12)Cl)=O)C(=O)O)C | C18H15ClN2O5
